US07317125B2
Preparation of benzoic acid N′-[2-(2′-chloro-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide
A solution of benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide (60 mg, 0.147 mmol) in DME (3 ml)/2M Na2CO3 (256 uL, 0.513 mmol) was treated with 3-chlorophenylboronic acid (34 mg, 0.219 mmol) and Pd[PPh3]4 (34 mg, 0.029 mmol) for 12 hours at 90° C. The reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 30-50% ethyl acetate/hexanes gradient to afford the product as a white crystalline solid (52 mg, 80%). LC-MS m/e 441.24 (M+H+)

reactant | benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 0.147 mmol, 60 mg | BrC1=C(OCC(=O)N(NC(C2=CC=CC=C2)=O)C(C)C)C=CC(=C1)F | C18H18BrFN2O3
reactant | Na2CO3 | 0.513 mmol, 2M, 256 uL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-chlorophenylboronic acid | 0.219 mmol, 34 mg | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
solvent | DME | 3 ml | COCCOC | C4H10O2
product | benzoic acid N′-[2-(2′-chloro-5-fluoro-biphenyl-2-yloxy)-acetyl]-N′-isopropyl-hydrazide | 52 mg, 80% | ClC1=C(C=CC=C1)C1=C(C=CC(=C1)F)OCC(=O)N(NC(C1=CC=CC=C1)=O)C(C)C | C24H22ClFN2O3
